US06380249B1
2,4-dioxo-4-[3-(1,2,3,4-tetrahydronaphthalen-1-yl)-phenyl]butyric acid (isomers A and B) (G1 and G2)
Isomer A: Into 1 mL distilled tetrahydrofuran was placed 0.046 g (0.18 mmol) of 1-[3-(1,2,3,4-tetrahydronaphthalen-1-yl)-phenyl]-ethanone (isomer A), 0.054 g (0.37 mmol) diethyl oxalate, and 0.025 g (0.37 mmol) sodium ethoxide. After stirring for 1.5 hr, excess 10% citric acid solution was added and the THF removed in vacuo. The residue was partitioned between water and ethyl acetate and extracted. The combined organic extracts were washed with water, brine, dried over anhydrous sodium sulphate, filtered, and the solvent removed in vacuo to afford the title compound which was used without further purification.

reactant | 1-[3-(1,2,3,4-tetrahydronaphthalen-1-yl)-phenyl]-ethanone | 0.18 mmol, 0.046 g | C1(CCCC2=CC=CC=C12)C=1C=C(C=CC1)C(C)=O | C18H18O
reactant | diethyl oxalate | 0.37 mmol, 0.054 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethoxide | 0.37 mmol, 0.025 g | [O-]CC.[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 2,4-dioxo-4-[3-(1,2,3,4-tetrahydronaphthalen-1-yl)-phenyl]butyric acid | O=C(C(=O)O)CC(C1=CC(=CC=C1)C1CCCC2=CC=CC=C12)=O | C20H18O4
